US07666871B2
1-(4′-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-biphenyl-2-yl)-ethanone
The title compound is prepared in a manner substantially analogous to example 133 starting from 2-acetylphenyl boronic acid (235 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 94 mg (85%). MS (m/e) 389.2 (M+1)

reactant | 2-acetylphenyl boronic acid | 1.43 mmol, 235 mg | C(C)(=O)C1=C(C=CC=C1)B(O)O | C8H9BO3
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 1-(4′-{5-Methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-biphenyl-2-yl)-ethanone | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=C(C=CC=C1)C(C)=O)CCN1[C@@H](CCC1)C | C25H28N2O2
